US08431514B2
To a solution of 2-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-6-methyl-phenylamine (prepared as descriebed in WO 2008/074427) (3.88 g, 11 mmol) in a mixture of acetonitrile (320 ml) and water (80 ml) was added potassium hydroxide (46.2 g, 827 mmol). The reaction mixture was stirred at 70° C. for 2 days. The reaction mixture was diluted with water (200 ml) and the mixture extracted three times with ethyl acetate (200 ml). The combined organic extracts were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/cyclohexane 1:3) to give 2-(4-amino-3-ethyl-5-methylphenyl)-1,1,1,3,3,4,4,4-octafluorobutan-2-ol (2.31 g, 60% yield). LC-MS (Method 1): RT=1.87, [M−H]−=352.

reactant | 2-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-6-methyl-phenylamine | 11 mmol, 3.88 g | C(C)C1=C(C(=CC(=C1)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)C)N | C13H12F9N
reactant | potassium hydroxide | 827 mmol, 46.2 g | [OH-].[K+]
solvent | acetonitrile | 320 ml | C(C)#N | C2H3N
solvent | water | 80 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 2-(4-amino-3-ethyl-5-methylphenyl)-1,1,1,3,3,4,4,4-octafluorobutan-2-ol | 2.31 g, 60% yield | NC1=C(C=C(C=C1C)C(C(F)(F)F)(C(C(F)(F)F)(F)F)O)CC | C13H13F8NO
